US04829067
(3)-(i) 2.4 ml of methyl iodide are added dropwise to a solution of 3.9 g of magnesium in 16 ml of tetrahydrofuran and the mixture is stirred at room temperature for 20 minutes. A solution of 11.0 g of 7-bromo-3-phenylbenzofuran in tetrahydrofuran is added dropwise to the mixture and the mixture is refluxed for 4 hours. After cooling, the reaction mixture is poured to dry ice, acidified with 10% hydrochloric acid and extracted with ethyl acetate. The extract is washed with water, dried and evaporated to remove solvent. The residue is recrystallized from ethyl acetate to give 6.31 g of 3-phenylbenzofuran-7-carboxylic acid as pale yellow prisms.

reactant | methyl iodide | 2.4 ml | CI | CH3I
reactant | magnesium | 3.9 g | [Mg] | Mg
reactant | 7-bromo-3-phenylbenzofuran | 11.0 g | BrC1=CC=CC=2C(=COC21)C2=CC=CC=C2 | C14H9BrO
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | 3-phenylbenzofuran-7-carboxylic acid | 6.31 g | C1(=CC=CC=C1)C1=COC2=C1C=CC=C2C(=O)O | C15H10O3
